US05849732
Conc. hydrochloric acid (2.1 ml) and g of 10% palladium-carbon (Pd-C) were added to 100 ml of an ethanol solution containing 5.4 g of N-benzyloxycarbonyl-2-[4-(3-dibutylaminopropyloxy)phenyl]ethylamine. The mixture was subjected to catalytic reduction at normal temperature under normal pressure for 1.5 hours. After removing the catalyst by filtration, the filtrate was condensed and the residue was dissolved in water. The aqueous solution was washed with diethyl ether and made alkaline with potassium carbonate, and the mixture was extracted with ethyl acetate. The extract was washed and dried, and the solvent was removed under reduced pressure to give 3.2 g of 2-[4-(3-dibutylaminopropyloxy)phenyl]ethylamine (yield: 85%, oily product).

reactant | hydrochloric acid | 2.1 ml | Cl | ClH
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | N-benzyloxycarbonyl-2-[4-(3-dibutylaminopropyloxy)phenyl]ethylamine | 5.4 g | C(C1=CC=CC=C1)OC(=O)NCCC1=CC=C(C=C1)OCCCN(CCCC)CCCC | C27H40N2O3
solvent | water | O | H2O
catalyst | palladium-carbon | [C].[Pd]
product | 2-[4-(3-dibutylaminopropyloxy)phenyl]ethylamine | 3.2 g, yield: 85% | C(CCC)N(CCCOC1=CC=C(C=C1)CCN)CCCC | C19H34N2O
